US08685969B2
4-(2-Fluorophenyl)-7-(methylsulfonamido)-9H-pyrido[3,4-b]indole-1-carboxamide
To a solution of 7-amino-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (25 mg, 0.078 mmol) in dichloromethane (2 mL) at rt was sequentially added methanesulfonyl chloride (22.35 mg, 0.195 mmol) and pyridine (0.016 mL, 0.195 mmol). The mixture was stirred at room temperature for 1 hr and then at 50° C. in a closed vial for 30 min. The mixture was concentrated. The residue was diluted with MeOH (1.5 mL) and subjected to prep. reverse phase HPLC purification. The correct fraction was concentrated under vacuum, basified with saturated NaHCO3 solution to pH 9, and extracted with ethyl acetate (3×30 mL). The combined extracts were washed with brine (25 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (4.81 mg, 0.012 mmol, 15.00% yield) as a pale solid. LCMS (M+H)+=399.03. 1H NMR (500 MHz, DMSO-d6) δ: 11.85 (s, 1H), 10.03 (s, 1H), 8.30 (s, 1H), 8.23 (s, 1H), 7.77 (s, 1H), 7.75 (s, 1H), 7.67-7.63 (m, 2H), 7.50-7.43 (m, 2H), 7.19 (d, J=7.7 Hz, 1H), 6.92 (dd, J1=8.8 Hz, J2=2.2 Hz, 1H), 3.02 (s, 3H).

reactant | 7-amino-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.078 mmol, 25 mg | NC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C=CC=C3)F)C(=O)N | C18H13FN4O
reactant | methanesulfonyl chloride | 0.195 mmol, 22.35 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.195 mmol, 0.016 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(2-Fluorophenyl)-7-(methylsulfonamido)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.012 mmol, 4.81 mg, 15.00% yield | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=CC=C3C21)NS(=O)(=O)C)C(=O)N | C19H15FN4O3S
